*
* Circuit simulator for t1
*
* NGSPICE simulation script
* BJT amp with feedback
*
*CIRCUITO
.options savecurrents


* Paramiters
.param Kb = 7.26294962318m;
.param Kc = 8.23798173787k;


* supply voltage
Va a 0 5.02770960543 

* Resistances
R1 a b 1.02055434268k
R2 b c 2.00415325659c3
R3 b d 3.09219210964k
R4 0 d 4.13741259708k
R5 d e 3.11995097026k
R6 0 f 2.00264223494K
R7 h g 1.02137871871K

* Voltage Sources
Vee f h 0
Hc d g Vee Kc

* Current Sources
Gb e c b d Kb
Id g e 1.03462284298m



*Control commads
.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

print @R1[i]
print v(a,b) V(e)

echo  "op_TAB"
print all
echo  "op_END"

.endc
.END
